US08389511B2
tert-Butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(methoxyethyl)piperidine-1-carboxylate
To a solution of tert-butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(hydroxy-ethyl)piperidine-1-carboxylate (2.10 g) in tetrahydrofuran (10 mL) was added methyl iodide (1.42 g), and the mixture was stirred. To the mixture was added 55% sodium hydride (300 mg) under ice-cooling, and the mixture was stirred at room temperature for 19 hours. To the reaction solution was added a saturated aqueous ammonium chloride solution (5 ml), and the mixture was extracted with ethyl acetate (50 ml). The organic layer was washed with water and a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (the developing solvent: hexane/ethyl acetate=4/1) to give the title compound (2.15 g).

reactant | tert-butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(hydroxy-ethyl)piperidine-1-carboxylate | 2.10 g | C(C1=CC=CC=C1)OC(=O)N([C@@H]1CC[C@@H](N(C1)C(=O)OC(C)(C)C)CCO)C(C)C | C23H36N2O5
reactant | methyl iodide | 1.42 g | CI | CH3I
reactant | sodium hydride | 300 mg | [H-].[Na+]
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-Butyl (2R,5R)-5-[[(benzyloxy)carbonyl](isopropyl)amino]-2-(methoxyethyl)piperidine-1-carboxylate | 2.15 g | C(C1=CC=CC=C1)OC(=O)N([C@@H]1CC[C@@H](N(C1)C(=O)OC(C)(C)C)CCOC)C(C)C | C24H38N2O5
